US09260425B2
A microwave reaction vial was charged with (R)-tert-butyl 1-(3-bromo-6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)pyrrolidin-3-ylcarbamate (124.5 mg, 0.1867 mmol), Methyl boronic acid (111.76 mg, 1.867 mmol), 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride (15.2 mg, 0.01876 mmol), 1.00 M of Potassium acetate in Water (0.28 mL, 0.28 mmol), 1.00 M of Sodium carbonate in Water (0.28 mL, 0.28 mmol), and Acetonitrile (10 mL). The reaction mixture was heated under microwave at 150° C. for 5 minutes. The mixture was concentrated, and the residue was purified on silica eluted with 0 to 100% EtOAc in Heptane to afford (R)-tert-butyl 1-(3-methyl-6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)pyrrolidin-3-ylcarbamate (43.8 mg, 39%).

reactant | (R)-tert-butyl 1-(3-bromo-6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)pyrrolidin-3-ylcarbamate | 0.1867 mmol, 124.5 mg | BrC=1C(=NC(=CC1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C31H40BrN7O3Si
reactant | Methyl boronic acid | 1.867 mmol, 111.76 mg | CB(O)O | CH5BO2
reactant | Potassium acetate | 1.00 M | C(C)(=O)[O-].[K+]
reactant | Water | 0.28 mmol, 0.28 mL | O | H2O
reactant | Water | 0.28 mmol, 0.28 mL | O | H2O
solvent | Sodium carbonate | 1.00 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.01876 mmol, 15.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Acetonitrile | 10 mL | C(C)#N | C2H3N
product | (R)-tert-butyl 1-(3-methyl-6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)pyrrolidin-3-ylcarbamate | 43.8 mg, 39% | CC=1C(=NC(=CC1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C)N2C[C@@H](CC2)NC(OC(C)(C)C)=O | C32H43N7O3Si
